US04276297
A mixture consisting of 2.5 g. (0.0108 mole) of 2-[N-mono(n-butyl)-amino]isonicotinic acid and 2.7 g. (0.0219 mole) of aminoguanidine sulfate was placed in a suitable reaction flask and heated at 200° C. for a period of three hours while under a nitrogen atmosphere. The melt was then cooled to room temperature (~25° C.), diluted with water and the pH of the resulting mixture adjusted to pH 8.0 with 1 N aqueous sodium hydroxide. The basified aqueous mixture was next filtered and the clear aqueous filtrate so obtained was subsequently concentrated in vacuo to afford a brown oil, which was thereafter triturated with methanol. After removal of the resultant solid by means of suction filtration, ethyl acetate was added to the filtrate and the latter solution was subsequently concentrated on a steam bath, followed by cooling to room temperature. In this way, there were ultimately isolated 1.04 g. of crude product (m.p. 218°-220° C.) in the form of a beige-colored precipitate. Recrystallization of the latter material from ethyl acetate/methanol then gave 467 mg (18%) of pure 3-amino-5-{2-[N-mono(n-butyl)amino]-4-pyridyl}-1,2,4-triazole, m.p. 268°-270° C. The final product was subsequently characterized by means of nuclear magnetic resonance data.

reactant | 2-[N-mono(n-butyl)-amino]isonicotinic acid | 0.0108 mole | C(CCC)NC=1C=C(C(=O)O)C=CN1 | C10H14N2O2
reactant | aminoguanidine sulfate | 0.0219 mole | S(=O)(=O)(O)O.NNC(=N)N
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | water | O | H2O
product | 3-amino-5-{2-[N-mono(n-butyl)amino]-4-pyridyl}-1,2,4-triazole | 467 mg, 18% | NC1=NNC(=N1)C1=CC(=NC=C1)NCCCC | C11H16N6
